US05006522
5,11-Dihydro-11-[4-(4-morpholinyl)-but-2-ynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example lb) from 5,11-dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, paraformaldehyde and morpholine in a yield of 19% of theory. Colourless crystals, m.p. 168° C.

reactant | 5,11-dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C#C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O
reactant | paraformaldehyde | C=O | CH2O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5,11-Dihydro-11-[4-(4-morpholinyl)-but-2-ynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 19% | N1(CCOCC1)CC#CCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C20H20N4O2
